US07982071B2
Metallation of 1-bromo-3-(2-ethylbutoxy)benzene followed by addition to (S)-(+)-epichlorohydrin gave (R)-1-chloro-3-(3-(2-ethylbutoxy)phenyl)propan-2-ol. Yield (1.55 g, 59%): 1H NMR (400 MHz, DMSO-d6) δ 7.14 (t, J=7.8 Hz, 1H), 6.77-6.72 (m, 3H), 5.13 (d, J=4.8 Hz, 1H), 3.88-3.82 (m, 1H), 3.78 (d, J=5.6 Hz, 2H), 3.52 (dd, J=10.8, 4.4 Hz, 1H), 3.43 (dd, J=10.8, 5.6 Hz, 1H), 2.74 (dd, J=13.6, 5.2 Hz, 1H), 2.61 (dd, J=13.2, 7.4 Hz, 1H), 1.74-1.69 (m, 1H), 1.39-1.25 (m, 8H), 0.85 (t, J=7.0 Hz, 6H).

reactant | 1-bromo-3-(2-ethylbutoxy)benzene | BrC1=CC(=CC=C1)OCC(CC)CC | C12H17BrO
reactant | (S)-(+)-epichlorohydrin | C(Cl)[C@@H]1CO1 | C3H5ClO
product | (R)-1-chloro-3-(3-(2-ethylbutoxy)phenyl)propan-2-ol | ClC[C@@H](CC1=CC(=CC=C1)OCC(CC)CC)O | C15H23ClO2
